US08030302B2
6-Bromo-5-(2-fluoro-4-nitrophenoxy)-1H-indazole
A mixture of 6-bromo-5-hydroxy-1H-indazole (7.0 g, 33.0 mmol), 3,4-difluoronitrobenzene (4.98 mg, 31.0 mmol), NaHCO3 (2.5 g, 31.0 mmol) in DMF (100 mL) is stirred at 80° C. for 4 hours. Then LiCl (10% aqueous solution) is added and the solution is extracted with EtOAc. The organic phase is dried over anhydrous MgSO4, filtered and concentrated. The residue is purified by silica gel column chromatography eluting with PE:DCM (1:1) to give the desired product (5.5 g, 46.6% yield). MS (m/z): 354.0 (M+H).

reactant | 6-bromo-5-hydroxy-1H-indazole | 33.0 mmol, 7.0 g | BrC1=C(C=C2C=NNC2=C1)O | C7H5BrN2O
reactant | 3,4-difluoronitrobenzene | 31.0 mmol, 4.98 mg | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
reactant | NaHCO3 | 31.0 mmol, 2.5 g | C(=O)(O)[O-].[Na+]
reactant | LiCl | [Li+].[Cl-]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 6-Bromo-5-(2-fluoro-4-nitrophenoxy)-1H-indazole | 5.5 g, 46.6% yield | BrC1=C(C=C2C=NNC2=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C13H7BrFN3O3
